US05952362
5. Preparation of (4-chloro-2-methyl-3-nitrophenoxy)acetonitrile
A mixture of 4-chloro-2-methyl-3-nitrophenol (7.6 g), bromoacetonitrile (3.4 mL), and potassium carbonate (16.8 g) in 2-butanone (80 mL) was heated at 80° C. for 2 hr under an atmosphere of nitrogen. The reaction mixture was cooled to room temperature, then filtered to remove the salts. The filtrate was diluted with ethyl ether (200 mL), washed with saturated sodium chloride solution, and dried over magnesium sulfate. Evaporation of the solvent afforded a yellow solid (9.1 g).

reactant | 4-chloro-2-methyl-3-nitrophenol | 7.6 g | ClC1=C(C(=C(C=C1)O)C)[N+](=O)[O-] | C7H6ClNO3
reactant | bromoacetonitrile | 3.4 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 16.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 80 mL | CC(CC)=O | C4H8O
product | (4-chloro-2-methyl-3-nitrophenoxy)acetonitrile | 9.1 g | ClC1=C(C(=C(OCC#N)C=C1)C)[N+](=O)[O-] | C9H7ClN2O3
